US07772271B2
To a solution of 6-ethoxy-2-(4-nitro-phenyl)-indole-1-carboxylic acid tert-butyl ester (8.1 g, 21.2 mmol) in CH2Cl2 (8 mL) was added TFA (8 mL). This mixture was stirred at room temperature for 2 h and concentrated. The residue was diluted in EtOAc and washed with sat.aq. NaHCO3. The organic layer was concentrated and purified by silica gel chromatography (7:3 CH2Cl2/hexane, followed by 100% CH2Cl2) to provide 6-ethoxy-2-(4-nitro-phenyl)-1H-indole (4.5 g, 68%) as an orange-red solid.

reactant | 6-ethoxy-2-(4-nitro-phenyl)-indole-1-carboxylic acid tert-butyl ester | 21.2 mmol, 8.1 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C21H22N2O5
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 6-ethoxy-2-(4-nitro-phenyl)-1H-indole | 4.5 g, 68% | C(C)OC1=CC=C2C=C(NC2=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H14N2O3
